US08309596B2
B) (S)-2-[2-(4-Methoxy-phenyl)-ethylcarbamoyl]-pyrrolidine-1-carboxylic acid tert-butyl ester
18.9 g of N-(Ethyl-N′-(3-dimethylaminopropyl)carbodiimide hydrochloride are added to a cooled solution of 20.04 g of (S)-Pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester, 14.9 g of 4-methoxyphenethylamine, 16.9 ml of diisopropylethylamine and 13.2 g of 1-hydroxy-benzotriazole in 250 ml of CH2Cl2. The reaction mixture obtained is stirred at rt for 16 hours, the reaction is quenched with aq. 2N HCl solution and the aq. phase obtained is extracted with CH2Cl2. The combined organic phases obtained are washed with aq. 2N HCl solution, brine and aq. saturated NaHCO3 solution, dried and solvent is evaporated. The residue obtained is purified by recrystallisation with EtOAc/hexane (1/3) to afford the title compound.

reactant | Ethyl-N′-(3-dimethylaminopropyl)carbodiimide hydrochloride | Cl.C(C)N=C=NCCCN(C)C
reactant | (S)-Pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester | 20.04 g | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)C(=O)O | C10H17NO4
reactant | 4-methoxyphenethylamine | 14.9 g | COC1=CC=C(CCN)C=C1 | C9H13NO
reactant | diisopropylethylamine | 16.9 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1-hydroxy-benzotriazole | 13.2 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | CH2Cl2 | 250 ml | C(Cl)Cl | CH2Cl2
product | (S)-2-[2-(4-Methoxy-phenyl)-ethylcarbamoyl]-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)C(NCCC1=CC=C(C=C1)OC)=O | C19H28N2O4
